US07338959B2
3-(Morpholine-4-sulfonyl)-phenylamine
4-(3-Nitro-benzenesulfonyl)-morpholine (5.9 g, 21.7 mmol) was combined with 10% palladium on carbon (1 g), ethanol (60 mL), and hydrazine (5 mL) and heated at reflux for 18 h. The solution was filtered through celite, concentrated, and cooled to 0° C. Product precipitated out an colorless crystal (4.7 g, 89%). MS (ESI) m/z=243 [M+H]+.

reactant | 4-(3-Nitro-benzenesulfonyl)-morpholine | 21.7 mmol, 5.9 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)N1CCOCC1 | C10H12N2O5S
reactant | hydrazine | 5 mL | NN | H4N2
catalyst | palladium on carbon | 1 g | [Pd] | Pd
solvent | ethanol | 60 mL | C(C)O | C2H6O
product | 3-(Morpholine-4-sulfonyl)-phenylamine | N1(CCOCC1)S(=O)(=O)C=1C=C(C=CC1)N | C10H14N2O3S
